US05233035
After 400 mg of p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(diphenylmethoxycarbonyl)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylate were dissolved in 4 ml of methylene chloride and 2 ml of anisole, 8 ml of trifluoroacetate was added therein under ice-cooling, and the reaction solution was reacted for 90 min. as it was. The residue obtained by evaporating off methylene chloride and trifluoroacetate was powdered by using ethyl ether. The powder obtained by filtering off was further added to 24 ml of trifluoroacetate under ice-cooling, and then 6 ml of water was added therein, and the reactants were reacted for 30 min. as they were, and further reacted for 2 hrs. at the room temperature. The residue obtained by evaporating off trifluoroacetate and water under the reduced pressure was powdered by adding ethyl ether and filtered off to give 190 mg of 7β-[(Z)-2-(2-amino-4-thiazolyl)-2-[ [(R S)-(carboxy)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylic acid.trifluoroacetate.

reactant | p-methoxybenzyl 7β-[(Z)-2-(2-tritylamino-4-thiazolyl)-2-[[(R S)-(diphenylmethoxycarbonyl)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylate | 400 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC2=NSC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C69H56N6O12S3
reactant | trifluoroacetate | 8 ml | FC(C(=O)[O-])(F)F
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[(Z)-2-(2-amino-4-thiazolyl)-2-[ [(R S)-(carboxy)(3,4-diacetoxyphenyl)methoxy]imino]acetamido]-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylic acid | 190 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC2=NSC=C2)C(=O)O)C1=O)=N/OC(C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)C(=O)O | C29H24N6O11S3
